** sch_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/top-pll/LC_VCO_FPLL_tb.sch
**.subckt LC_VCO_FPLL_tb CLK_OUT
*.opin CLK_OUT
V1 VDD GND 1.2
Vfref CLK_IN GND 0 pulse(0 1.2 0n 1n 1n 50n 100n)
VBGR VBGR GND 0.6
xpll VBGR CLK_IN VDD CLK_OUT GND en rst sclk sdata LC_VCO_FPLL
* noconn en
* noconn rst
* noconn sclk
* noconn sdata
**** begin user architecture code



*****************************************************
* PLL + DSM Frequency Divider Testbench (Optimized)
*****************************************************

.option temp=27
.param VDD=1.2
.option rshunt = 1.0e12

* ==============================
* Include Models & Stimuli
* ==============================
.include 4nH_INDUCTOR.spice
.include ../simulations/stimuli_test.cir

* ==============================
* Simulation Options (Optimized for Speed & Stability)
* ==============================
* gear method improves stability for long oscillator runs
* reltol=1e-3 prevents the simulator from bogging down on microscopic errors
.options reltol=1e-3 abstol=1e-9 vntol=1e-6 method=gear

* ==============================
* Initial Conditions (Speed Hack)
* ==============================
* Uncomment the line below to pre-charge the loop filter to your expected
* V_tune voltage (e.g., 0.6V). This skips the massive initial frequency jump.

*.nodeset v(x1.vctrl)=0.606
*.nodeset v(x1.x1.ctrl1)=0.606
*.nodeset v(x1.x1.ctrl2)=0.606

.control
  * CRITICAL: Save ONLY essential low-frequency signals.
  * Saving 2.4GHz nodes for 100us will crash your memory.
  save xpll.vctrl xpll.up xpll.dn xpll.clk_fb clk_out clk_in vbgr xpll.vcp xpll.x4.outp sdata sclk en rst
  *save all


  * 20p defines the step to resolve the 2.4 GHz edges without forcing a maxstep.
  tran 10p 100u

  remzerovec
  write tb_LC_VCO_FPLL_100u.raw
.endc





.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
*.include /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.global VDD GND



**** end user architecture code
**.ends

* expanding   symbol:  xschem/top-pll/LC_VCO_FPLL.sym # of pins=9
** sym_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/top-pll/LC_VCO_FPLL.sym
** sch_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/top-pll/LC_VCO_FPLL.sch
.subckt LC_VCO_FPLL VBGR CLK_IN VDD CLK_OUT VSS EN RST SDATA SCLK
*.ipin CLK_IN
*.opin CLK_OUT
*.ipin EN
*.ipin SDATA
*.ipin SCLK
*.ipin RST
*.iopin VDD
*.iopin VSS
*.iopin VBGR
x1 CLK_IN UP VDD VSS CLK_FB DN PHASE_FREQ_DET
x2 UP VDD VCP VBGR VSS DN VSS CHARGE_PUMP
x3 VCTRL VCP VSS VSS LOOP_FILTER
x4 VDD VCTRL VSS CLK_OUT VBGR LC_VCO
adut [ net1 net2 net3 net4 net5 ] [ net6 ] null dut
.model dut d_cosim simulation=../simulations/dsm_and_freq_divider.so
A1 [ CLK_OUT ] [ net1 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
A2 [ RST ] [ net2 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
A3 [ SCLK ] [ net3 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
A4 [ SDATA ] [ net4 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
A5 [ EN ] [ net5 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
A6 [ net6 ] [ CLK_FB ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
.ends


* expanding   symbol:  PHASE_FREQ_DET.sym # of pins=6
** sym_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/phase-freq-detector/PHASE_FREQ_DET.sym
** sch_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/phase-freq-detector/PHASE_FREQ_DET.sch
.subckt PHASE_FREQ_DET FREF UP VDD GND FDIV DN
*.opin UP
*.ipin FREF
*.iopin VDD
*.iopin GND
*.opin DN
*.ipin FDIV
x1 net1 UP FREF VDD nRST VDD GND sg13g2_dfrbp_2
x2 DN net2 FDIV VDD nRST VDD GND sg13g2_dfrbp_2
x3 nRST net1 DN VDD GND sg13g2_nand2_2
* noconn #net2
.ends


* expanding   symbol:  CHARGE_PUMP.sym # of pins=7
** sym_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/charge-pump/CHARGE_PUMP.sym
** sch_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/charge-pump/CHARGE_PUMP.sch
.subckt CHARGE_PUMP UP VDD VCP VBGR GND DN SUB!
*.opin VCP
*.ipin UP
*.ipin DN
*.iopin GND
*.iopin VBGR
*.iopin VDD
*.iopin SUB!
XM2 Vbn Vbn net5 SUB! sg13_lv_nmos w=40.7u l=2u ng=5
XM8 net2 GND VDD NW sg13_lv_pmos w=29.6u l=2u ng=5
XM11 Vbp Vbp net2 NW sg13_lv_pmos w=163.6u l=2u ng=20
XM3 Vbn Vbp net1 NW sg13_lv_pmos w=163.6u l=2u ng=20
XM4 net1 GND VDD NW sg13_lv_pmos w=29.6u l=2u ng=5
XM7 net3 UP VDD NW sg13_lv_pmos w=29.6u l=2u ng=5
XM9 VCP Vbp net3 NW sg13_lv_pmos w=163.6u l=2u ng=20
XM10 net5 VDD GND SUB! sg13_lv_nmos w=6u l=2u ng=1
XM1 net4 DN GND SUB! sg13_lv_nmos w=6u l=2u ng=1
XM5 VCP Vbn net4 SUB! sg13_lv_nmos w=40.7u l=2u ng=5
XM6 Vbp VBGR GND SUB! sg13_lv_nmos w=3.9u l=2u ng=1
XR1 VDD NW ntap1 R=1.319 w=51e-6 l=36e-6 rw=0.3e-6
XR2 VDD NW ntap1 R=2.51 w=30.5e-6 l=15.5e-6 rw=0.3e-6
XR3 GND SUB! ptap1 R=9.234 w=5.68e-6 l=7.26e-6 rw=0.3e-6
XR4 GND SUB! ptap1 R=2.717 w=30e-6 l=12.54e-6 rw=0.3e-6
XR5 GND SUB! ptap1 R=4.486 w=20e-6 l=6e-6 rw=0.3e-6
.ends


* expanding   symbol:  xschem/loop-filter/LOOP_FILTER.sym # of pins=4
** sym_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/loop-filter/LOOP_FILTER.sym
** sch_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/loop-filter/LOOP_FILTER.sch
.subckt LOOP_FILTER OUT IN GND SUB!
*.opin OUT
*.iopin GND
*.ipin IN
*.iopin SUB!
XC2 OUT GND cap_cmim w=18.63e-6 l=18.63e-6 m=4
XC1 net1 GND cap_cmim w=48.34e-6 l=48.34e-6 m=16
XR2 OUT IN SUB! rppd w=2e-6 l=407.2e-6 m=1 b=0
XR1 net1 IN SUB! rppd w=2e-6 l=407.2e-6 m=1 b=0
XR3 GND SUB! ptap1 R=1.462 w=46.34e-6 l=32.18e-6 rw=0.3e-6
XR4 GND SUB! ptap1 R=1.462 w=46.34e-6 l=32.18e-6 rw=0.3e-6
.ends


* expanding   symbol:  xschem/lc-vco/LC_VCO.sym # of pins=5
** sym_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/lc-vco/LC_VCO.sym
** sch_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/lc-vco/LC_VCO.sch
.subckt LC_VCO VDD VCTRL GND FOUT VBGR
*.opin FOUT
*.ipin VCTRL
*.ipin VBGR
*.iopin VDD
*.iopin GND
XM5 Vx Vgs GND GND sg13_lv_nmos w=384u l=1u ng=48
XM4 OUTp OUTn VDD VDD sg13_lv_pmos w=36u l=0.13u ng=5
XM3 OUTn OUTp VDD VDD sg13_lv_pmos w=36u l=0.13u ng=5
XM2 OUTp OUTn Vx GND sg13_lv_nmos w=22u l=0.13u ng=3
XM1 OUTn OUTp Vx GND sg13_lv_nmos w=22u l=0.13u ng=3
XM6 Vgs Vgs GND GND sg13_lv_nmos w=64u l=1u ng=8
XC1 OUTn OUTp GND cap_rfcmim w=21.9e-6 l=21.9e-6 wfeed=10.0e-6
XC3 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
XC2 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
XM7 Vgs VBGR VDD VDD sg13_lv_pmos w=38u l=1u ng=5
XM8 FOUT OUTp VDD VDD sg13_lv_pmos w=15u l=0.13u ng=10
XM9 FOUT OUTp GND GND sg13_lv_nmos w=1.5u l=0.13u ng=1
XM10 net1 OUTn VDD VDD sg13_lv_pmos w=15u l=0.13u ng=10
XM11 net1 OUTn GND GND sg13_lv_nmos w=1.5u l=0.13u ng=1
x2 OUTn OUTp 4nH_INDUCTOR
.ends

.GLOBAL GND
.GLOBAL VDD
.GLOBAL VBGR
.GLOBAL VSS
.end
